US06204264B1
1-[2-(Dimethylamino)ethyl]-2-heptadecyl-N-methyl-1H-benzimidazole-5-carboxamide monohydrochloride (Compound 39)
4N Hydrochloric acid/ethyl acetate solution (1.24 ml) was added to a solution containing 1-[2-(dimethylamino)ethyl]-2-heptadecyl-N-methyl-1H-benzimidazole-5-carboxamide (2.207 g) in a mixture of ethyl acetate (22 ml) and ethanol (2 ml). After being stirred for 30 minutes while being cooled with ice, the reaction mixture was concentrated. The residue was recrystallized with the mixed solution of ethyl acetate-ethanol, thereby yielding the entitled compound (1.751 g) as white crystals.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.24 ml | Cl.C(C)(=O)OCC
reactant | 1-[2-(dimethylamino)ethyl]-2-heptadecyl-N-methyl-1H-benzimidazole-5-carboxamide | 2.207 g | CN(CCN1C(=NC2=C1C=CC(=C2)C(=O)NC)CCCCCCCCCCCCCCCCC)C | C30H52N4O
solvent | ethyl acetate | 22 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-[2-(Dimethylamino)ethyl]-2-heptadecyl-N-methyl-1H-benzimidazole-5-carboxamide monohydrochloride | 1.751 g | Cl.CN(CCN1C(=NC2=C1C=CC(=C2)C(=O)NC)CCCCCCCCCCCCCCCCC)C | InChI=1S/C30H52N4O.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-29-32-27-25-26(30(35)31-2)21-22-28(27)34(29)24-23-33(3)4;/h21-22,25H,5-20,23-24H2,1-4H3,(H,31,35);1H
